US04178449
7-Phenyl-3(α,α,α-trifluoroacetyl)pyrazolo[1,5-a]pyrimidin
A mixture of 7-phenylpyrazolo[1,5-a]pyrimidine, 50 ml. of methylene chloride and 10 ml. of trifluoroacetic anhydride is allowed to stand at room temperature overnight. Evaporation of the reaction mixture gives a residue which is redissolved in methylene chloride and washed with a saturated sodium bicarbonate solution. This dried solution, after passing through a hydrous magnesium silicate column, is evaporated and hexane added. At one point a flocculant precipitate is noted. After cooling, this material is removed by filtration. The desired product obtained in this manner is amorphorus with a softening temperature of 105°-109° C.

reactant | 7-phenylpyrazolo[1,5-a]pyrimidine | C1(=CC=CC=C1)C1=CC=NC=2N1N=CC2 | C12H9N3
reactant | trifluoroacetic anhydride | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 7-Phenyl-3(α,α,α-trifluoroacetyl)pyrazolo[1,5-a]pyrimidin | C1(=CC=CC=C1)C1=CC=NC=2N1N=CC2C(C(F)(F)F)=O | C14H8F3N3O
